US09359359B2
2-(2-methoxyethoxy)ethyl methanesulfonate
To a solution of 2-(2-methoxyethoxy)ethanol (300 mg, 2.5 mmol) in DCM (5 mL) was added methanesulfonyl chloride (370 mg, 2.6 mmol) dropwise at 0° C. After stirred at this temperature for 5 min, TEA (505 mg, 5.0 mmol) was added. It was stirred at room temperature overnight. The mixture was partitioned between DCM and water. The organic layers were combined, dried over sodium sulfate, filtered and concentrated to give a crude oil product, which was used without purification. Product tlc [petroleum ether/ethyl acetate [1:1) developed with iodine, Rf 0.5]

reactant | 2-(2-methoxyethoxy)ethanol | 2.5 mmol, 300 mg | COCCOCCO | C5H12O3
reactant | methanesulfonyl chloride | 2.6 mmol, 370 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-methoxyethoxy)ethyl methanesulfonate | CS(=O)(=O)OCCOCCOC | C6H14O5S
